CIRCUIT C:\Users\SUNNY\simulations\Export Microwind\4tsinglecellread.MSK
*
* IC Technology: CMOS 50nm - 7 Metal
*
VDD 1 0 DC 0.50
Vblb 6 0 PULSE(0.00 0.50 2.00N 0.00N 0.00N 0.10N 2.10N)
Vbl 10 0 PULSE(0.50 0.00 2.00N 0.00N 0.00N 0.10N 2.10N)
Vwlp 13 0 PULSE(0.50 0.00 2.00N 0.00N 0.00N 0.10N)
Vwln 14 0 PULSE(0.00 0.50 2.00N 0.00N 0.00N 0.10N)
Vnpre 15 0 PULSE(0.50 0.00 2.00N 0.00N 0.00N 0.10N 2.10N)
Vstwite 16 0 PULSE(0.00 0.50 2.00N 0.00N 0.00N 0.10N)
Vppre 17 0 PULSE(0.00 0.50 2.00N 0.00N 0.00N 0.10N 2.10N)
Vstbwrite 18 0 PULSE(0.50 0.00 2.00N 0.00N 0.00N 0.10N)
*
* List of nodes
* "st" corresponds to n°4
* "s1" corresponds to n°5
* "blb" corresponds to n°6
* "bl" corresponds to n°10
* "wlp" corresponds to n°13
* "wln" corresponds to n°14
* "npre" corresponds to n°15
* "stwite" corresponds to n°16
* "ppre" corresponds to n°17
* "stbwrite" corresponds to n°18
*
* MOS devices
MN1 10 16 0 0 N1  W= 0.10U L= 0.05U
MN2 0 15 10 0 N1  W= 0.10U L= 0.05U
MN3 4 14 10 0 N1  W= 0.18U L= 0.05U
MN4 0 4 5 0 N1  W= 0.10U L= 0.05U
MP1 4 5 1 1 P1  W= 0.10U L= 0.05U
MP2 6 13 5 1 P1  W= 0.20U L= 0.05U
MP3 6 17 1 1 P1  W= 0.10U L= 0.05U
MP4 1 18 6 1 P1  W= 0.10U L= 0.05U
*
C2 1 0  0.559fF
C3 1 0  0.128fF
C4 4 0  0.198fF
C5 5 0  0.222fF
C6 6 0  0.361fF
C7 1 0  0.076fF
C8 1 0  0.076fF
C10 10 0  0.339fF
C13 13 0  0.094fF
C14 14 0  0.105fF
C15 15 0  0.002fF
C16 16 0  0.001fF
C17 17 0  0.002fF
C18 18 0  0.001fF
C19 19 0  0.060fF
C20 20 0  0.060fF
*
*
* n-MOS BSIM4 :
* Standard
.MODEL N1 NMOS LEVEL=14 VTO=0.20 U0=0.050 TOX= 1.5E-9 LINT=0.000U 
+K1 =0.450 K2=0.100 DVT0=2.300
+DVT1=0.540 LPE0=23.000e-9 ETA0=0.080
+NFACTOR=  1.6 U0=0.050 UA=3.000e-15
+WINT=0.020U LPE0=23.000e-9 
+KT1=-0.060 UTE=-1.800 VOFF=0.050
+XJ=0.150U NDEP=170.000e15 PCLM=1.100
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS BSIM4:
* Standard
.MODEL P1 PMOS LEVEL=14 VTO=-0.20 U0=0.028 TOX= 1.5E-9 LINT=0.000U 
+K1 =0.450 K2=0.100 DVT0=2.300
+DVT1=0.540 LPE0=23.000e-9 ETA0=0.080
+NFACTOR=  1.6 U0=0.028 UA=3.000e-15
+WINT=0.020U LPE0=23.000e-9 
+KT1=-0.060 UTE=-1.800 VOFF=0.050
+XJ=0.150U NDEP=170.000e15 PCLM=0.700
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.1N 5.00N
* (Pspice)
.PROBE
.END
