CIRCUIT C:\Users\SUNNY\simulations\Export Microwind\4ttest.MSK
*
* IC Technology: CMOS 50nm - 7 Metal
*
VDD 1 0 DC 0.50
Vvinclock 6 0 PULSE(0.50 0.00 1.00N 0.01N 0.00N 1.00N 2.00N)
Vvoutclock 7 0 PULSE(0.00 0.50 1.00N 0.01N 0.00N 1.00N 2.00N)
*
* List of nodes
* "N4" corresponds to n°4
* "s2" corresponds to n°5
* "vinclock" corresponds to n°6
* "voutclock" corresponds to n°7
* "s1" corresponds to n°8
*
* MOS devices
MN1 8 10 7 0 N1  W= 0.10U L= 0.05U
MN2 0 8 5 0 N1  W= 0.10U L= 0.05U
MP1 4 5 1 1 P1  W= 0.10U L= 0.05U
MP2 6 11 5 1 P1  W= 0.10U L= 0.05U
*
C2 1 0  0.194fF
C3 1 0  0.128fF
C4 4 0  0.076fF
C5 5 0  0.240fF
C6 6 0  0.079fF
C7 7 0  0.104fF
C8 8 0  0.098fF
C10 10 0  0.048fF
C11 11 0  0.048fF
*
* n-MOS Model 3 :
* Standard
.MODEL N1 NMOS LEVEL=3 VTO=0.20 UO=600.000 TOX= 1.8E-9
+LD =0.005U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.010 VMAX=130.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* Standard
.MODEL P1 PMOS LEVEL=3 VTO=-0.20 UO=200.000 TOX= 1.8E-9
+LD =0.005U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.010 VMAX=100.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.1N 20.00N
* (Pspice)
.PROBE
.END
