CIRCUIT C:\Users\SUNNY\simulations\Export Microwind\final designs\4t\4tnew.MSK
*
* IC Technology: CMOS 50nm - 7 Metal
*
VDD 1 0 DC 0.50
VWL2 20 0 PULSE(0.27 0.00 4.00N 0.00N 0.00N 1.00N)
Vpulse2 21 0 PULSE(0.00 0.50 2.00N 0.00N 0.00N 1.00N)
VREen 22 0 PULSE(0.00 0.50 4.00N 0.00N 0.00N 1.00N)
Vdata 23 0 PULSE(0.50 0.00 2.00N 0.00N 0.00N 1.00N)
VREenbar 25 0 PULSE(0.50 0.00 4.00N 0.00N 0.00N 1.00N)
Vblbpre 26 0 PULSE(0.00 0.50 4.00N 0.00N 0.00N 1.00N)
*
* List of nodes
* "N2" corresponds to n°2
* "N3" corresponds to n°3
* "N6" corresponds to n°6
* "st" corresponds to n°9
* "stb" corresponds to n°10
* "s1" corresponds to n°13
* "data" corresponds to n°17, WARNING: appears 2 times in the layout
* "WL2" corresponds to n°20
* "pulse2" corresponds to n°21
* "REen" corresponds to n°22
* "data" corresponds to n°23, WARNING: appears 2 times in the layout
* "BL" corresponds to n°24
* "REenbar" corresponds to n°25
* "blbpre" corresponds to n°26
*
* MOS devices
MN1 17 1 0 0 N1  W= 0.18U L= 0.05U
MN2 9 21 17 0 N1  W= 0.18U L= 0.05U
MN3 0 9 10 0 N1  W= 0.10U L= 0.05U
MN4 12 14 0 0 N1  W= 0.10U L= 0.05U
MN5 13 22 12 0 N1  W= 0.10U L= 0.05U
MP1 1 23 6 1 P1  W= 0.15U L= 0.05U
MP2 9 10 1 1 P1  W= 0.10U L= 0.05U
MP3 14 20 10 1 P1  W= 0.20U L= 0.05U
MP4 12 14 1 1 P1  W= 0.10U L= 0.05U
MP5 13 25 12 1 P1  W= 0.10U L= 0.05U
MP6 1 26 14 1 P1  W= 0.15U L= 0.05U
*
C4 1 0  0.304fF
C5 1 0  0.154fF
C6 6 0  0.040fF
C7 1 0  0.185fF
C8 1 0  0.066fF
C9 9 0  0.217fF
C10 10 0  0.239fF
C11 1 0  0.086fF
C12 12 0  0.277fF
C13 13 0  0.227fF
C14 14 0  0.294fF
C15 1 0  0.075fF
C17 17 0  0.233fF
C20 20 0  0.139fF
C21 21 0  0.139fF
C22 22 0  0.001fF
C23 23 0  0.001fF
C24 1 0  0.001fF
C25 25 0  0.001fF
C26 26 0  0.001fF
*
* n-MOS Model 3 :
* Standard
.MODEL N1 NMOS LEVEL=3 VTO=0.20 UO=600.000 TOX= 1.8E-9
+LD =0.005U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.010 VMAX=130.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* Standard
.MODEL P1 PMOS LEVEL=3 VTO=-0.18 UO=200.000 TOX= 1.8E-9
+LD =0.005U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.010 VMAX=100.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.1N 10.00N
* (Pspice)
.PROBE
.END
