CIRCUIT C:\Users\SUNNY\simulations\Export Microwind\SENSE.MSK
*
* IC Technology: CMOS 50nm - 7 Metal
*
VDD 1 0 DC 0.50
*
* List of nodes
* "data out" corresponds to n°3
* "N5" corresponds to n°5
* "N6" corresponds to n°6
* "dbar" corresponds to n°8
* "d" corresponds to n°9
* "sense en" corresponds to n°10
*
* MOS devices
MN1 6 8 3 0 N1  W= 0.20U L= 0.05U
MN2 0 10 6 0 N1  W= 0.20U L= 0.05U
MN3 5 9 6 0 N1  W= 0.20U L= 0.05U
MP1 1 5 3 1 P1  W= 0.10U L= 0.05U
MP2 5 3 1 1 P1  W= 0.10U L= 0.05U
*
C2 1 0  0.125fF
C3 3 0  0.328fF
C4 1 0  0.091fF
C5 5 0  0.266fF
C6 6 0  0.191fF
C8 8 0  0.049fF
C9 9 0  0.050fF
C10 10 0  0.002fF
*
* n-MOS Model 3 :
* Standard
.MODEL N1 NMOS LEVEL=3 VTO=0.20 UO=600.000 TOX= 1.8E-9
+LD =0.005U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.010 VMAX=130.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* Standard
.MODEL P1 PMOS LEVEL=3 VTO=-0.20 UO=200.000 TOX= 1.8E-9
+LD =0.005U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.010 VMAX=100.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.1N 10.00N
* (Pspice)
.PROBE
.END
